US06413972B1
Production of 2-amino-4-hydroxypyrimidine-5-carboxylic acid ethyl ester
Guanidine carbonate (18.0 g, 200 mmol) is dissolved in ethanol (300 ml), and then sodium alcoholate (13.6 g) and ethoxymethylenemalonic acid diethyl ester (43.2 g, 200 mmol) are added at room temperature. After stirring at room temperature for 4 days, the mixture is concentrated to dryness under reduced pressure. To the residue obtained, water (500 ml) is added and neutralized with hydrochloric acid, and then the crystal precipitated is collected by filtration and recrystallized, to yield a white crystal (30.5 g, 83%).

reactant | Guanidine carbonate | 200 mmol, 18.0 g | C(O)(O)=O.NC(=N)N
reactant | ethoxymethylenemalonic acid diethyl ester | 200 mmol, 43.2 g | C(C)OC(C(C(=O)OCC)=COCC)=O | C10H16O5
reactant | water | 500 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 2-amino-4-hydroxypyrimidine-5-carboxylic acid ethyl ester | 30.5 g, 83% | C(C)OC(=O)C=1C(=NC(=NC1)N)O | C7H9N3O3
